US07041416B2
405 parts of 1-methoxy-2-propanol were charged in a reaction vessel and heated under a nitrogen flow so that the internal temperature of the vessel was 70° C. Then a solution in which 16.4 parts of methacrylic acid, 41.2 parts of allyl methacrylate, 32.4 parts of 2-ethylhexyl methacrylate (composition ratio of these methacrylic acid and esters thereof was 28:48:24 in molar ratio), 3.38 parts of V-65 (2,2′-azobis-(2,4′-dimethylvaleronitrile), manufactured by Wako Pure Chemical Co.) were dissolved in 405 parts of 1-methoxy-2-propanol was dropwise added into the vessel over a period of 2.5 hours. The mixture was agitated further for 2 hours under heating at 70° C. The obtained reaction liquid was poured into 4000 parts of water, and the resulting solid was separated by filtration and dried under vacuum to obtain a methacrylic acid/allyl methacrylate/2-ethylhexyl methacrylate terpolymer (terpolymer 7). The weight-average molecular weight of the terpolymer was 39,000 (converted as polystyrene).

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | 2-ethylhexyl methacrylate | C(C(=C)C)(=O)OCC(CCCC)CC | C12H22O2
reactant | 2,2′-azobis-(2,4′-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
solvent | water | O | H2O
product | methacrylic acid allyl methacrylate 2-ethylhexyl methacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)OCC=C.C(C(=C)C)(=O)OCC(CCCC)CC | InChI=1S/C12H22O2.C7H10O2.C4H6O2/c1-5-7-8-11(6-2)9-14-12(13)10(3)4;1-4-5-9-7(8)6(2)3;1-3(2)4(5)6/h11H,3,5-9H2,1-2,4H3;4H,1-2,5H2,3H3;1H2,2H3,(H,5,6)
